US04518597
8-Bromo-6-(4-phenylsulfinyl-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 4 from 8-bromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-phenylsulfinyl-butylbromide.

reactant | 8-bromo-6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=CC(=CC=2C(OC(NC21)=O)(C)C)O | C10H10BrNO3
reactant | 4-phenylsulfinyl-butylbromide | C1(=CC=CC=C1)S(=O)CCCCBr | C10H13BrOS
product | 8-Bromo-6-(4-phenylsulfinyl-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | BrC1=CC(=CC=2C(OC(NC21)=O)(C)C)OCCCCS(=O)C2=CC=CC=C2 | C20H22BrNO4S
